US07642277B2
b) trans-2-(2-Chlorophenyl)cyclopropanemethanol
Pd(OAc)2 (13.3 mg, 0.06 mmol) was added to a solution of trans-3-(2-chlorophenyl)-2-propen-1-ol (100 mg, 0.59 mmol) in a solution of CH2N2 in Et2O (ca. 0.6 M, 25 mL). The reaction mixture was stirred at room temperature for 1 h. An additional amount of CH2N2 solution in Et2O (25 mL) was added and the mixture was stirred for 1 h. The mixture was filtered through diatomaceous earth and the filtrate was concentrated under reduced pressure. The residue was purified by flash chromatography (CH2Cl2:(CH3)2CO, 95:5) to yield the title compound (85.5 mg, 79% yield).

reactant | trans-3-(2-chlorophenyl)-2-propen-1-ol | 0.59 mmol, 100 mg | ClC1=C(C=CC=C1)/C=C/CO | C9H9ClO
reactant | Et2O | ca. 0.6 M, 25 mL | CCOCC | C4H10O
reactant | Et2O | 25 mL | CCOCC | C4H10O
catalyst | Pd(OAc)2 | 0.06 mmol, 13.3 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | trans-2-(2-Chlorophenyl)cyclopropanemethanol | 85.5 mg, 79% yield | ClC1=C(C=CC=C1)[C@H]1[C@@H](C1)CO | C10H11ClO
